US08445538B2
Step C. N-(4-{(1S)-1-[(4-chlorophenyl)(4-fluoro-1-naphthyl)methyl]butyl}benzoyl)-β-alanine
To a solution of ethyl N-(4-{(1S)-1-[(4-chlorophenyl)(4-fluoro-1-naphthyl)methyl]butyl}benzoyl)-β-alaninate (160 mg, 0.293 mmol) in ethanol (2 mL) and THF (2 mL) was added LiOH (2.0 N in water, 2.93 mL, 5.86 mmol), then the mixture was stirred for one hour. The mixture was diluted with DCM, then acidified with 2.0 N HCl (aq). The layers were separated, then the organic layer was dried over MgSO4, filtered, then concentrated. The residue was purified by silica gel chromatography eluting with 10% MeOH/DCM to obtain the title compound as a white solid. 1H NMR (499 MHz, CD3OD): δ 8.40 (d, J=8.8 Hz, 1H); 7.92 (d, J=8.3 Hz, 1H); 7.70 (dd, J=8.2, 5.3 Hz, 1H); 7.60 (d, J=8.3 Hz, 2H); 7.55 (t, J=7.6 Hz, 1H); 7.50 (d, J=8.1 Hz, 2H); 7.45 (t, J=7.6 Hz, 1H); 7.39 (d, J=8.1 Hz, 2H); 7.30 (d, J=8.3 Hz, 2H); 7.00 (dd, J=10.4, 8.2 Hz, 1H); 5.19 (d, J=11.5 Hz, 1H); 3.52 (t, J=6.9 Hz, 2H); 3.36-330 (m, 1H); 2.53 (t, J=7.0 Hz, 2H); 1.62 (d, J=10.4 Hz, 2H); 1.11-1.05 (m, 2H); 0.78 (t, J=7.3 Hz, 3H). LC3 4.01 min. [M+H]+ 518.

reactant | ethyl N-(4-{(1S)-1-[(4-chlorophenyl)(4-fluoro-1-naphthyl)methyl]butyl}benzoyl)-β-alaninate | 0.293 mmol, 160 mg | ClC1=CC=C(C=C1)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1)C1=CC=C(C2=CC=CC=C12)F | C33H33ClFNO3
reactant | LiOH | 5.86 mmol, 2.0 N, 2.93 mL | [Li+].[OH-]
reactant | HCl | 2.0 N | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(4-{(1S)-1-[(4-chlorophenyl)(4-fluoro-1-naphthyl)methyl]butyl}benzoyl)-β-alanine | ClC1=CC=C(C=C1)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC=C(C2=CC=CC=C12)F | C31H29ClFNO3
